US07572809B2
Similar procedure as described in example 10 was used, starting from 4-fluoro-phenol and (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give [1-(4-fluoro-phenoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 335(MH+).

reactant | 4-fluoro-phenol | FC1=CC=C(C=C1)O | C6H5FO
reactant | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
product | [1-(4-fluoro-phenoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | FC1=CC=C(OC2=NC(=CC3=CC=CC=C23)NC2=NNC(=C2)C)C=C1 | C19H15FN4O
